US08791129B2
2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 4-aminobutyrate dihydrochloride (“A90”)
250 μl of 4N HCl in dioxane are added to 300 mg of 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 4-tert-butoxycarbonylaminobutyrate in 5 ml of dichloromethane with ice-cooling. The mixture is subsequently stirred at 25° C. for a further 1 h, the precipitate is filtered off with suction and washed with 2 ml of dichloromethane.

reactant | HCl | 4N, 250 μl | Cl | ClH
reactant | 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 4-tert-butoxycarbonylaminobutyrate | 300 mg | C(C)(C)(C)OC(=O)NCCCC(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1 | C33H33F2N5O5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 4-aminobutyrate dihydrochloride | Cl.Cl.NCCCC(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1 | InChI=1S/C28H25F2N5O3.2ClH/c29-22-11-19(15-38-25(36)6-3-9-31)20(12-23(22)30)16-7-8-24-21(10-16)26(34-28(32)33-24)27(37)35-13-17-4-1-2-5-18(17)14-35;;/h1-2,4-5,7-8,10-12H,3,6,9,13-15,31H2,(H2,32,33,34);2*1H
